* Schematics Netlist *



M_M3         $N_0001 $N_0001 0 0 MODN  
+ L=1.4u  
+ W=7u         
R_R         0 $N_0002  242.3k  
M_MB         $N_0002 $N_0002 $N_0003 $N_0003 MODP  
+ L=1.4u  
+ W=19.6u         
M_M4         $N_0004 $N_0001 0 0 MODN  
+ L=1.4u  
+ W=7u         
M_M6         $N_0005 $N_0004 0 0 MODN  
+ L=1.4u  
+ W=14u         
C_C8         $N_0006 $N_0005  9.1p  
R_R13         $N_0004 $N_0006  6.64k  
M_M5         $N_0007 $N_0002 $N_0003 $N_0003 MODP  
+ L=1.4u  
+ W=37.8u         
M_M7         $N_0005 $N_0002 $N_0003 $N_0003 MODP  
+ L=1.4u  
+ W=37.8u         
V_V51         $N_0008 0 0.2
M_M2         $N_0004 $N_0009 $N_0007 $N_0007 MODP  
+ L=1.4u  
+ W=19.6u         
M_M1         $N_0001 $N_0010 $N_0007 $N_0007 MODP  
+ L=1.4u  
+ W=19.6u         
C_C9         0 $N_0005  5p  
V_Vdd         $N_0003 0 3.3
V_V55         $N_0009 $N_0008  
+SIN 0 1u 10 0 0 180
V_V54         $N_0010 $N_0008  
+SIN 0 1u 10 0 0 0
